US05672697
N6 -Benzoyl-2'-deoxyadenosine (5)
This compound was prepared from 2'-deoxyadenosine monohydrate by the same procedure used for the preparation of N4 -benzoyl-2'-deoxycytidine.

reactant | 2'-deoxyadenosine monohydrate | O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12
reactant | N4 -benzoyl-2'-deoxycytidine | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O | C16H17N3O5
product | N6 -Benzoyl-2'-deoxyadenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H17N5O4
